US06313137B1
Synthesis of 6-amino-5-(2-ethyl-6-methylbenzyloxy)nicotinamide
2-ethyl-6-methylbenzyl 5-(2-ethyl-6-methylbenzyloxy)-6-nitronicotinate (0.7 g, 2 mmol) was added to a solution of ammonia in methanol (5-10%)(40 ml) and the mixture was stirred at 35° C. for 96 h. The solvent was evaporated under reduced pressure. Purification of the residue twice by column chromatography on silica gel using ethylacetate:methylene chloride (1:1) and methanol:methylene chloride (1:9) as eluent gave 0.14 g (31%) of the title compound.

reactant | 2-ethyl-6-methylbenzyl 5-(2-ethyl-6-methylbenzyloxy)-6-nitronicotinate | 2 mmol, 0.7 g | C(C)C1=C(COC=2C(=NC=C(C(=O)OCC3=C(C=CC=C3C)CC)C2)[N+](=O)[O-])C(=CC=C1)C | C26H28N2O5
reactant | ammonia | N | H3N
solvent | methanol | 40 ml | CO | CH4O
product | 6-amino-5-(2-ethyl-6-methylbenzyloxy)nicotinamide | 0.14 g, 31% | NC1=NC=C(C(=O)N)C=C1OCC1=C(C=CC=C1C)CC | C16H19N3O2
